US20010007855A1
L-Proline phenacyl ester.
Boc-L-proline phenacyl ester (0.29 g, 0.87 mmol) was dissolved in EtOAc (25 mL) and a steady current of HCl was passed through the solution for approximately 40 min, when TLC analysis showed the deprotection to be complete. The solvent was evaporated to provide a white crystalline material. Recrystallization from petroleum ether gave clear crystals (0.19 g, 94%); FABMS 234.2 (M+H), 467.2 (2M+H); HRFABMS calcd for C13H16NO3 (M+H) 234.1130, found 234.1129.

reactant | Boc-L-proline phenacyl ester | 0.87 mmol, 0.29 g | C(C(=O)C1=CC=CC=C1)OC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C18H23NO5
reactant | HCl | Cl | ClH
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | L-Proline phenacyl ester | 0.19 g, 94% | C(C(=O)C1=CC=CC=C1)OC([C@H]1NCCC1)=O | C13H15NO3
